US07384789B2
2,6-Diamino-4-methylanisole hydrochloride.
2-Methoxy-5-methyl-1,3-dinitrobenzene (0.050 g, 0.236 mmol) was suspended in conc. Hydrochloric acid (1.2 mL). Tin granules (0.118 g, 0.995 mmol) were added slowly to the mixture with stirring at room temperature. After 2 hours, the solution turned white (all the tin granules were dissolved), the solution was cooled to 4° C. The product was collected as a white precipitate and recrystallized from hot water-concentrated hydrochloric acid. Yield=0.037 g (70%) from 0.050 g 2-Methoxy-5-methyl-1,3-dinitrobenzene. White flakes; mp 226° C. (dec); 1H NMR (DMSO) δ: 6.57 (s, 2H), 3.91 (s, broad, 6H), 3.72 (s, 3H), 2.17 (s, 3H).

reactant | 2-Methoxy-5-methyl-1,3-dinitrobenzene | 0.236 mmol, 0.050 g | COC1=C(C=C(C=C1[N+](=O)[O-])C)[N+](=O)[O-] | C8H8N2O5
reactant | Tin | [Sn] | Sn
reactant | Hydrochloric acid | 1.2 mL | Cl | ClH
product | 2,6-Diamino-4-methylanisole hydrochloride | Cl.NC1=C(C(=CC(=C1)C)N)OC | InChI=1S/C8H12N2O.ClH/c1-5-3-6(9)8(11-2)7(10)4-5;/h3-4H,9-10H2,1-2H3;1H
